** sch_path: /foss/designs/MMM-LAB DESIGN/WPT/WPT.sch
**.subckt WPT
C1 med rec 10u
XM1 med med 0 igzo_tft W=6000u L=5u ov=2u nf=1 m=1 B=0 b_scale=1
XM2 med med OUT igzo_tft W=6000u L=5u ov=2u nf=1 m=1 B=0 b_scale=1
C3 0 OUT 10u
RL OUT 0 10k
V1 tran 0 DC 0 AC 1 SIN(0 152.145 500k)
.save i(v1)
R1 IN tran 1
L2 IN 0 171.482u
L1 rec 0 171.482u
**** begin user architecture code

.include /headless/pdks/TFT-MMM-LAB-PDK/libs.tech/ngspice/design.ngspice
.lib /headless/pdks/TFT-MMM-LAB-PDK/libs.tech/ngspice/igzo_mmm_lab.ngspice tt



* The transmit loop MUST be series-tuned: L2 is 171.482uH and its reactance at
* 500 kHz is 539 ohms against 10.57 ohms of resistance.  Untuned, the drive
* current - and with it everything downstream - falls by a factor of about 51.
CTX  n_txa n_tx1 590.855p
*
* THE COUPLING BELONGS HERE AND CANNOT GO HERE.  ngspice will not couple an
* inductor inside a subcircuit, and L1 above is the ind_igzo subcircuit:
*     Fatal error: k1: coupling to non-existent inductor xl1.l1
* The coupled netlist is sim/wpt_core.spice, generated from the same numbers.
 K1 L1 L2 0.00358402
*
.control
set filetype=ascii
ac dec 40 1e3 1e7
plot v(out)
tran 1e-08 0.00012
plot v(out)
.endc


**** end user architecture code
**.ends
.end
